US06967254B2
4-(4-Chlorophenyl)-1-(1-methyl-piperidin-4-yl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
A solution of 4-(4-chlorophenyl)-1-piperidin-4-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one (0.12 g, 0.34 mmol) in anhydrous methanol (3 mL) was cooled to 0° C. in an ice-water bath and added formaldehyde (3 mL; 37 wt. % in water), followed by sodium borohydride (0.039 g, 1 mmol). After stirring for 1 hour, the reaction was quenched with water and diluted with methylene chloride. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo. The title compound was isolated as a yellow amorphous solid by preparative HPLC. MS (ES+): 369.2 (M+H)+; (ES−): 367.1 (M−H)−.

reactant | 4-(4-chlorophenyl)-1-piperidin-4-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | 0.34 mmol, 0.12 g | ClC1=CC=C(C=C1)C=1C(NN(C1C1=CC=NC=C1)C1CCNCC1)=O | C19H19ClN4O
reactant | formaldehyde | 3 mL | C=O | CH2O
reactant | sodium borohydride | 1 mmol, 0.039 g | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 4-(4-Chlorophenyl)-1-(1-methyl-piperidin-4-yl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)C=1C(NN(C1C1=CC=NC=C1)C1CCN(CC1)C)=O | C20H21ClN4O
